US08486971B2
A) tert-Butyl 4-carbamoyl-4-[(3,3,3-trifluoropropyl)-amino]piperidine-1-carboxylate
10 g of tert-butyl 4-amino-4-carbamoylpiperidine-1-carboxylate, 4.42 g of 3,3,3-trifluoropropionaldehyde, 17.61 g of sodium triacetoxyborohydride and 4.51 ml of acetic acid are added, at AT, to 250 ml of DCM, and then the mixture is stirred for 3 hours. Water is added and the expected compound is extracted with DCM, and the organic phase is washed with a saturated solution of NaHCO3 and then with water. After drying of the organic phase, filtration and evaporation to dryness, 13 g of expected compound are obtained.

reactant | tert-butyl 4-amino-4-carbamoylpiperidine-1-carboxylate | 10 g | NC1(CCN(CC1)C(=O)OC(C)(C)C)C(N)=O | C11H21N3O3
reactant | 3,3,3-trifluoropropionaldehyde | 4.42 g | FC(CC=O)(F)F | C3H3F3O
reactant | sodium triacetoxyborohydride | 17.61 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4.51 ml | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-carbamoyl-4-[(3,3,3-trifluoropropyl)-amino]piperidine-1-carboxylate | C(N)(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)NCCC(F)(F)F | C14H24F3N3O3
